US04113842
Pure calcium 1-hydroxy-1-cyclohexanesulfonate hexahydrate was prepared by mixing 15 g of calcium carbonate (0.15 mole) with 100 g of 50 weight percent mixture of cyclohexanone in water. Sulfur dioxide was passed into the mixture until the pH was less than 0.5. The mixture was filtered, the cake washed with 100 g of methanol, then air dried and chemically analyzed. Calculated for Ca[C6H10 (OH)SO3 ]2 ·6H2O: Ca 7.9 percent, S 11.6 percent, C 28.3 percent, H 6.4 percent. Observed: Ca 7.9 percent, S 12.6 percent, C 28.5 percent, H 6.7 percent.

reactant | calcium carbonate | 0.15 mole, 15 g | C([O-])([O-])=O.[Ca+2]
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | Sulfur dioxide | S(=O)=O | O2S
solvent | water | O | H2O
product | calcium 1-hydroxy-1-cyclohexanesulfonate hexahydrate | O.O.O.O.O.O.OC1(CCCCC1)S(=O)(=O)[O-].[Ca+2].OC1(CCCCC1)S(=O)(=O)[O-] | InChI=1S/2C6H12O4S.Ca.6H2O/c2*7-6(11(8,9)10)4-2-1-3-5-6;;;;;;;/h2*7H,1-5H2,(H,8,9,10);;6*1H2/q;;+2;;;;;;/p-2
